US08377923B2
Ethyl 2-(4-bromo-2,6-difluorophenoxy)-2-methylpropanoate (200 mg), tetrakis-triphenylphosphine palladium (36 mg) and sodium carbonate (200 mg) were dissolved in a mixed solvent of dioxane (4.0 ml) and water (1.0 ml), trimethylboroxine (0.26 ml) was added thereto, followed by stirring under an argon atmosphere at 100° C. overnight. After cooling to room temperature, an insoluble substance was removed by celite filtration and the solvent was evaporated under reduced pressure. The residue was purified by silica gel chromatography to obtain, as a colorless oily product, ethyl 2-(2,6-difluoro-4-methylphenoxy)-2-methylpropanoate (115 mg).

reactant | Ethyl 2-(4-bromo-2,6-difluorophenoxy)-2-methylpropanoate | 200 mg | BrC1=CC(=C(OC(C(=O)OCC)(C)C)C(=C1)F)F | C12H13BrF2O3
reactant | sodium carbonate | 200 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 4.0 ml | O1CCOCC1 | C4H8O2
solvent | water | 1.0 ml | O | H2O
solvent | trimethylboroxine | 0.26 ml | CB1OB(OB(O1)C)C | C3H9B3O3
product | ethyl 2-(2,6-difluoro-4-methylphenoxy)-2-methylpropanoate | 115 mg | FC1=C(OC(C(=O)OCC)(C)C)C(=CC(=C1)C)F | C13H16F2O3
